US09102688B2
2-Nitro-N-quinolin-8-yl-4-trifluoromethyl-benzenesulfonamide (Example Compound 32)
In a similar fashion using route 14 general procedure 26, 8-aminoquinoline (500 mg, 3 mmol) and 2-nitro-4-(trifluoromethyl)benzene-1-sulfonyl chloride (990 mg, 3 mmol) gave the title compound (1.22 g, 99%).

reactant | 8-aminoquinoline | 3 mmol, 500 mg | NC=1C=CC=C2C=CC=NC12 | C9H8N2
reactant | 2-nitro-4-(trifluoromethyl)benzene-1-sulfonyl chloride | 3 mmol, 990 mg | [N+](=O)([O-])C1=C(C=CC(=C1)C(F)(F)F)S(=O)(=O)Cl | C7H3ClF3NO4S
product | 2-Nitro-N-quinolin-8-yl-4-trifluoromethyl-benzenesulfonamide | 1.22 g, 99% | [N+](=O)([O-])C1=C(C=CC(=C1)C(F)(F)F)S(=O)(=O)NC=1C=CC=C2C=CC=NC12 | C16H10F3N3O4S
